US08293917B2
To a solution of 2-bromo-6-trifluoromethyl-pyridine (480 mg, 2.2 mmol) in anhydrous diethyl ether (20 mL) at −78° C. is added n-butyllithium (1.6 M in hexanes, 1.5 mL, 2.4 mmol) dropwise over 20 min. After stirring at −78° C. for 30 min, (S)-2-methyl-propane-2-sulfinic acid butylideneamide is added. The resultant mixture is stirred at −78° C. for 30 min and is then allowed to warm gradually to room temperature overnight. The reaction mixture is poured into saturated aqueous ammonium chloride solution (30 mL) and extracted with EtOAc (3×30 mL). The combined organic phases are dried over magnesium sulfate, filtered and concentrated in vacuo to afford (S,S)-2-methyl-propane-2-sulfinic acid 1-(6-trifluoromethyl-pyridin-2-yl)-butylamide as a yellow oil (290 mg, 42%).

reactant | 2-bromo-6-trifluoromethyl-pyridine | 2.2 mmol, 480 mg | BrC1=NC(=CC=C1)C(F)(F)F | C6H3BrF3N
reactant | n-butyllithium | 2.4 mmol, 1.6 M, 1.5 mL | C(CCC)[Li]
reactant | (S)-2-methyl-propane-2-sulfinic acid butylideneamide | C(CCC)=N[S@@](=O)C(C)(C)C | C8H17NOS
reactant | ammonium chloride | 30 mL | [Cl-].[NH4+]
solvent | diethyl ether | 20 mL | C(C)OCC | C4H10O
product | (S,S)-2-methyl-propane-2-sulfinic acid 1-(6-trifluoromethyl-pyridin-2-yl)-butylamide | 290 mg, 42% | FC(C1=CC=CC(=N1)[C@H](CCC)N[S@@](=O)C(C)(C)C)(F)F | C14H21F3N2OS
